US08563565B2
(2) Synthesis of 3-bromo-6-methoxy-2,4-dimethylpyridine
A mixture of 5-bromo-4,6-dimethylpyridin-2-ol (7 g), methyl iodide (21.6 mL) and silver carbonate (19.1 g) was stirred in a chloroform solvent (140 mL) at room temperature for 36 hours. The reaction mixture was subjected to silica gel pad and eluted with a mixed solvent of (ethyl acetate:n-heptane=2:8). The resulting solution was concentrated under reduced pressure to give the title compound (6.98 g).

reactant | 5-bromo-4,6-dimethylpyridin-2-ol | 7 g | BrC=1C(=CC(=NC1C)O)C | C7H8BrNO
reactant | methyl iodide | 21.6 mL | CI | CH3I
solvent | chloroform | 140 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | silver carbonate | 19.1 g | C([O-])([O-])=O.[Ag+2]
product | 3-bromo-6-methoxy-2,4-dimethylpyridine | 6.98 g | BrC=1C(=NC(=CC1C)OC)C | C8H10BrNO
